US04044026
11.8 g (0.1 mole) 2-methyl-4-chloro-2-butenal is dripped at ambient temperature into a solution of 10.4 g (0.13 mole) of potassium methylate in 60 ml of methanol and the whole is stirred for an hour. The product is worked up as described in Example 1. 10.5 g of 2-methyl-4,4-dimethoxybutanal is obtained by distillation at subatmospheric pressure. According to gas chromatographic and nmr analysis it has a purity of more than 98%. The yield is 72% of theory.

reactant | 2-methyl-4-chloro-2-butenal | 0.1 mole, 11.8 g | CC(C=O)=CCCl | C5H7ClO
reactant | potassium methylate | 0.13 mole, 10.4 g | C[O-].[K+]
reactant | methanol | 60 ml | CO | CH4O
product | 2-methyl-4,4-dimethoxybutanal | 10.5 g, yield is 72% | CC(C=O)CC(OC)OC | C7H14O3
